US08685969B2
2. 4-(Dimethylamino)-N-(2-fluoro-3-formylphenyl)benzamide
To a solution of N-(3-cyano-2-fluorophenyl)-4-(dimethylamino)benzamide (2.18 g, 7.70 mmol) in tetrahydrofuran (150 mL) at −78° C. was added DIBAL-H (23.09 mL, 23.09 mmol) over 20 min. The mixture was stirred at −78° C. for 1 h before it was allowed to warm to room temperature and stirred at room temperature for 4 hr. The mixture was poured into ice/water (600 mL) and stirred at room temperature for 30 min. The mixture was extracted with CH2Cl2 (4×100 mL). The combined extract was filtered through CELITE®, washed with brine (80 mL), and dried over anhydrous MgSO4. Evaporation of the solvent under vacuum provided a crude product (1.83 g) as a pale yellow solid. This product was used in the next step without further purification.

reactant | N-(3-cyano-2-fluorophenyl)-4-(dimethylamino)benzamide | 7.70 mmol, 2.18 g | C(#N)C=1C(=C(C=CC1)NC(C1=CC=C(C=C1)N(C)C)=O)F | C16H14FN3O
reactant | DIBAL-H | 23.09 mmol, 23.09 mL | CC(C)C[AlH]CC(C)C
reactant | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 4-(Dimethylamino)-N-(2-fluoro-3-formylphenyl)benzamide | 1.83 g | CN(C1=CC=C(C(=O)NC2=C(C(=CC=C2)C=O)F)C=C1)C | C16H15FN2O2
